US08461179B1
To stirring fuming HNO3 (90 wt %, 30.0 mL, 643 mmol) at −15° C. was added 4-fluoro-2-methylphenylacetic acid (15 g, 89.2 mmol) in portions such that the internal temperature remained below −10° C. After completing the addition the reaction was stirred with warming to 5° C. over 15 min. The mixture was poured onto ice (400 g), stirred vigorously until the ice had completely melted and the resulting solid was collected by filtration, rinsed well with H2O and dried on the filter to afford 2-(4-fluoro-2-methyl-5-nitrophenyl)acetic acid (18.43 g, 97% yield) as a pale yellow solid. 1H NMR (400 MHz, acetone-d6): δ 8.06 (d, J=7.6 Hz, 1H), 7.36 (d, J=12.0 Hz, 1H), 3.84 (s, 2H), 2.44 (s, 3H).

reactant | HNO3 | 643 mmol, 30.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-fluoro-2-methylphenylacetic acid | 89.2 mmol, 15 g | FC1=CC(=C(C=C1)CC(=O)O)C | C9H9FO2
product | 2-(4-fluoro-2-methyl-5-nitrophenyl)acetic acid | 18.43 g, 97% yield | FC1=CC(=C(C=C1[N+](=O)[O-])CC(=O)O)C | C9H8FNO4
